US06559174B2
To a mixture of 1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester hydrochloride (200 mg, 0.878 mmol) in a 1:1 mixture of CH2Cl2 and THF (2.5 mL each) was added dropwise DIPEA (0.88 mmol, 113 mg) followed by 3,5-dichlorobenzenesulfonyl chloride (0.922 mmol, 227 mg), a second equivalent of DIPEA and 4-DMAP (0.176 mmol, 22 mg). The reaction mixture was stirred at rt overnight when TLC (4:1 hexane:ethyl acetate) indicated disappearance of all starting material. The volatiles were removed in vacuo and the residue was purified by flash column chromatography on silica gel eluted with a gradient of hexane and ethyl acetate to yield N-(3,5-dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester (282 mg, 80%) as a white foam, homogeneous by TLC (Rf=0.55, 4:1 hexane:ethyl acetate);

reactant | 1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester hydrochloride | 0.878 mmol, 200 mg | Cl.C1NC(CC2=CC=CC=C12)C(=O)OC
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | DIPEA | 0.88 mmol, 113 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,5-dichlorobenzenesulfonyl chloride | 0.922 mmol, 227 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
catalyst | 4-DMAP | 0.176 mmol, 22 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | N-(3,5-dichlorobenzenesulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, methyl ester | 282 mg, 80% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C17H15Cl2NO4S
